US07071192B1
2,3-Butanedione (0.0776 mol) was added at room temperature to a solution of sodium pyrosulfite (0.1 mol) in water (75 ml). The mixture was heated to 70° C. and then added to a solution of ethyl 2,3-diaminobenzoate (0.0776 mol) in water (75 ml). The mixture was stirred at 100° C. for 12 hours, cooled, basified with K2CO3 10% and =extracted with EtOAc. The organic layer was separated, dried (MgSO4), filtered and the solvent was evaporated. The residue (17.5 g) was purified by column chromatography over silica gel (eluent: CH2Cl2/EtOAc 93/7; 20–45 μm). The pure fractions were collected and the solvent was evaporated, yielding 12 g (67%) of ethyl 2,3-dimethyl-5-quinoxalinecarboxylate (interm. 6).

reactant | 2,3-Butanedione | 0.0776 mol | CC(C(C)=O)=O | C4H6O2
reactant | sodium pyrosulfite | 0.1 mol | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | ethyl 2,3-diaminobenzoate | 0.0776 mol | NC1=C(C(=O)OCC)C=CC=C1N | C9H12N2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 75 ml | O | H2O
solvent | water | 75 ml | O | H2O
product | ethyl 2,3-dimethyl-5-quinoxalinecarboxylate | 12 g, 67% | CC1=NC=2C=CC=C(C2N=C1C)C(=O)OCC | C13H14N2O2
